### PR TITLE
[Merged by Bors] - refactor(RingTheory.MvPolynomial.Homogeneous): refactor in terms of weightedHomogeneous

### PR DESCRIPTION
**Pull request by mariainesdff**
We rewrite the definition of homogeneous polynomial as a special case of weighted homogeneous polynomial.

Question: should all uses of `∑ i in d.support, d i` be replaced by `degree d`?

Co-authored-by: Antoine Chambert-Loir <antoine.chambert-loir@u-paris.fr>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 1]
```diff
@@ -34,19 +35,34 @@ variable {σ : Type*} {τ : Type*} {R : Type*} {S : Type*}
...
-* create definition for `∑ i in d.support, d i`
 * show that `MvPolynomial σ R ≃ₐ[R] ⨁ i, homogeneousSubmodule σ R i`
 -/
+
+/-- The degree of a monomial. -/
+def degree (d : σ →₀ ℕ) := ∑ i in d.support, d i
+
+theorem degree_eq_weightedDegree (d : σ →₀ ℕ) :
+    ∑ i in d.support, d i = weightedDegree 1 d := by
+  simp [weightedDegree, Finsupp.total, Finsupp.sum]
```
Comment (Vierkantor) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:46]: I think replacing `∑ i in d.support` with `degree` would make sense, but only if we reverse the direction of this theorem. (Can it be `@[simp]`?)
```suggestion
theorem weightedDegree_one (d : σ →₀ ℕ) :
    weightedDegree 1 d = degree d := by
  simp [weightedDegree, Finsupp.total, Finsupp.sum]
```

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 2]
```diff
@@ -34,19 +35,34 @@ variable {σ : Type*} {τ : Type*} {R : Type*} {S : Type*}
...
 if all monomials occurring in `φ` have degree `n`. -/
 def IsHomogeneous [CommSemiring R] (φ : MvPolynomial σ R) (n : ℕ) :=
-  ∀ ⦃d⦄, coeff d φ ≠ 0 → ∑ i in d.support, d i = n
+  IsWeightedHomogeneous 1 φ n
 #align mv_polynomial.is_homogeneous MvPolynomial.IsHomogeneous
 
+variable [CommSemiring R]
+
+theorem totalDegree_eq_weightedTotalDegree (φ : MvPolynomial σ R) :
+    φ.totalDegree = weightedTotalDegree (1 : σ → ℕ) φ := by
```
Comment (Vierkantor) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:57]: Idem:
```suggestion
theorem weightedTotalDegree_one (φ : MvPolynomial σ R) :
    weightedTotalDegree (1 : σ → ℕ) φ = φ.totalDegree := by
```

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 3]
```diff
@@ -77,35 +93,15 @@ variable (σ R)
...
-  rw [Finsupp.mem_antidiagonal] at hde
-  classical
-  have hd' : d.support ⊆ d.support ∪ e.support := Finset.subset_union_left _ _
-  have he' : e.support ⊆ d.support ∪ e.support := Finset.subset_union_right _ _
-  rw [← hde, ← hφ, ← hψ, Finset.sum_subset Finsupp.support_add, Finset.sum_subset hd',
-    Finset.sum_subset he', ← Finset.sum_add_distrib]
-  · congr
-  all_goals intro i hi; apply Finsupp.not_mem_support_iff.mp
+    homogeneousSubmodule σ R m * homogeneousSubmodule σ R n ≤ homogeneousSubmodule σ R (m + n) :=
+  weightedHomogeneousSubmodule_mul 1 m n
```
Comment (Vierkantor) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:104]: Nice work!

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 4]
```diff
@@ -34,19 +35,34 @@ variable {σ : Type*} {τ : Type*} {R : Type*} {S : Type*}
...
+    φ.totalDegree = weightedTotalDegree (1 : σ → ℕ) φ := by
+  simp only [totalDegree, weightedTotalDegree, weightedDegree, LinearMap.toAddMonoidHom_coe,
+    Finsupp.total, Pi.one_apply, Finsupp.coe_lsum, LinearMap.coe_smulRight, LinearMap.id_coe,
+    id.def, Algebra.id.smul_eq_mul, mul_one]
+
 variable (σ R)
 
 /-- The submodule of homogeneous `MvPolynomial`s of degree `n`. -/
-def homogeneousSubmodule [CommSemiring R] (n : ℕ) : Submodule R (MvPolynomial σ R) where
+def homogeneousSubmodule (n : ℕ) : Submodule R (MvPolynomial σ R) where
```
Comment (Vierkantor) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:65]: For completeness, could you also add a (`@[simp]`?) lemma stating `weightedHomogeneousSubmodule 1 R n = homogeneousSubmodule σ R n`?

File: Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean [hunk 5]
```diff
@@ -406,20 +415,45 @@ theorem sum_weightedHomogeneousComponent :
...
     exact this.symm
 #align mv_polynomial.sum_weighted_homogeneous_component MvPolynomial.sum_weightedHomogeneousComponent
 
+theorem finsum_weightedHomogeneousComponent :
+    (finsum fun m => weightedHomogeneousComponent w m φ) = φ := by
+  rw [sum_weightedHomogeneousComponent]
+
 variable {w}
 
+theorem weightedHomogeneousComponent_of_weighted_homogeneous_polynomial_same
```
Comment (Vierkantor) [inline Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean:436]: How about the name:
```suggestion
theorem IsWeightedHomogeneous.weightedHomogeneousComponent_same
```

File: Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean [hunk 6]
```diff
@@ -406,20 +415,45 @@ theorem sum_weightedHomogeneousComponent :
...
+    [DecidableEq M] (m : M) (p : MvPolynomial σ R) (hp : IsWeightedHomogeneous w p m) :
+    weightedHomogeneousComponent w m p = p := by
+  ext x
+  rw [coeff_weightedHomogeneousComponent]
+  by_cases zero_coeff : coeff x p = 0
+  · split_ifs
+    rfl; rw [zero_coeff]
+  · rw [hp zero_coeff, if_pos]; rfl
+
+theorem weightedHomogeneousComponent_of_weightedHomogeneous_ne
```
Comment (Vierkantor) [inline Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean:446]:
```suggestion
theorem IsWeightedHomogeneous.weightedHomogeneousComponent_ne
```

File: Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean [hunk 7]
```diff
@@ -455,14 +489,66 @@ theorem weightedHomogeneousComponent_zero [NoZeroSMulDivisors ℕ M] (hw : ∀ i
...
+
+theorem nonTrivialWeight_of [NoZeroSMulDivisors ℕ M] (hw : ∀ i : σ, w i ≠ 0) :
+    NonTrivialWeight w := by
+  intro n x
+  rw [smul_eq_zero]
+  intro hnx
+  cases' hnx with hn hx
+  · exact hn
+  · exact absurd hx (hw x)
+#align mv_polynomial.non_trivial_weight_of MvPolynomial.nonTrivialWeight_of
```
Comment (Vierkantor) [inline Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean:512]: I can't find the string `non_trivial_weight_of` in mathlib 3, should this `#align` even exist?
```suggestion
```

File: Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean [hunk 8]
```diff
@@ -455,14 +489,66 @@ theorem weightedHomogeneousComponent_zero [NoZeroSMulDivisors ℕ M] (hw : ∀ i
...
+
 end CanonicallyOrderedAddCommMonoid
 
+section CanonicallyLinearOrderedMonoid
+
+variable [CanonicallyLinearOrderedAddCommMonoid M] {w : σ → M} (φ : MvPolynomial σ R)
+
+theorem weightedDegree_eq_zero_iff (hw : NonTrivialWeight w) (m : σ →₀ ℕ) :
+    weightedDegree w m = 0 ↔ ∀ x : σ, m x = 0 := by
```
Comment (Vierkantor) [inline Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean:521]: Since `m` appears on both sides of the iff, we can probably make it implicit:
```suggestion
theorem weightedDegree_eq_zero_iff (hw : NonTrivialWeight w) {m : σ →₀ ℕ} :
    weightedDegree w m = 0 ↔ ∀ x : σ, m x = 0 := by
```

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 9]
```diff
@@ -114,23 +110,20 @@ variable [CommSemiring R]
...
-  · subst c
-    exact hn
-  · contradiction
+  simp_rw [degree_eq_weightedDegree] at hn
+  exact isWeightedHomogeneous_monomial 1 d r hn
 #align mv_polynomial.is_homogeneous_monomial MvPolynomial.isHomogeneous_monomial
 
 variable (σ)
 
+theorem isHomogeneous_of_totalDegree_zero_iff {p : MvPolynomial σ R} :
```
Comment (Vierkantor) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:119]: To match the theorem statement:
```suggestion
theorem totalDegree_zero_iff_isHomogeneous {p : MvPolynomial σ R} :
```

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 10]
```diff
@@ -114,23 +110,20 @@ variable [CommSemiring R]
...
+    ← isWeightedHomogeneous_zero_iff_weightedTotalDegree_eq_zero, IsHomogeneous]
+
 theorem isHomogeneous_of_totalDegree_zero {p : MvPolynomial σ R} (hp : p.totalDegree = 0) :
-    IsHomogeneous p 0 := by
-  erw [totalDegree, Finset.sup_eq_bot_iff] at hp
-  -- we have to do this in two steps to stop simp changing bot to zero
-  simp_rw [mem_support_iff] at hp
-  exact hp
+    IsHomogeneous p 0 :=
+  (isHomogeneous_of_totalDegree_zero_iff _).mp hp
```
Comment (Vierkantor) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:126]: You can save a bit of work by using the `alias` command to derive this lemma from `totalDegree_zero_iff_isHomogeneous`.

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 11]
```diff
@@ -204,17 +196,8 @@ theorem prod {ι : Type*} (s : Finset ι) (φ : ι → MvPolynomial σ R) (n : 
...
-    intro d hd
-    rw [mem_support_iff] at hd
-    rw [Finsupp.sum, hφ hd]
-  · obtain ⟨d, hd⟩ : ∃ d, coeff d φ ≠ 0 := exists_coeff_ne_zero h
-    simp only [← hφ hd, Finsupp.sum]
-    replace hd := Finsupp.mem_support_iff.mpr hd
-    -- Porting note: Original proof did not define `f`
-    exact Finset.le_sup (f := fun s ↦ ∑ x in s.support, (⇑s) x) hd
+  rw [totalDegree_eq_weightedTotalDegree, ← WithBot.coe_eq_coe, ←
+    weightedTotalDegree_coe _ φ h, IsWeightedHomogeneous.weighted_total_degree hφ h]
```
Comment (Vierkantor) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:200]: Let's keep the `←` with the rest of the `rw` rule:
```suggestion
  rw [totalDegree_eq_weightedTotalDegree, ← WithBot.coe_eq_coe,
      ← weightedTotalDegree_coe _ φ h, IsWeightedHomogeneous.weighted_total_degree hφ h]
```

**Review by Vierkantor — COMMENTED** [review]
That is a nice refactor! Could you indeed replace `∑ i in d.support, d i` with `degree d` throughout?

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean (hunk 1 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:49]: I have changed this as suggested, but I did not make it a simp lemma, because at least in this file we only use it to replace `degree` by `weigthedDegree` (to recover the proofs from the general case).

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean (hunk 10 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:129]: What do you mean?

Comment (Vierkantor) [reply Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:129]: It's been a while so maybe I forgot some important context. It seems that we can just define this as:
```
alias ⟨isHomogeneous_of_totalDegree_zero, _⟩ := isHomogeneous_of_totalDegree_zero_iff
```

File: Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean (hunk 7 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean:512]: You are right, this never made it to mathlib 3. I am also renaming `NonTrivialWeight` to `NonTorsionWeight`, following @AntoineChambert-Loir's suggestion.

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 12]
```diff
@@ -79,66 +99,41 @@ variable (σ R)
...
+    homogeneousSubmodule σ R m * homogeneousSubmodule σ R n ≤ homogeneousSubmodule σ R (m + n) :=
+  weightedHomogeneousSubmodule_mul 1 m n
 #align mv_polynomial.homogeneous_submodule_mul MvPolynomial.homogeneousSubmodule_mul
 
 section
 
 variable [CommSemiring R]
 
-theorem isHomogeneous_monomial (d : σ →₀ ℕ) (r : R) (n : ℕ) (hn : ∑ i in d.support, d i = n) :
+theorem isHomogeneous_monomial (d : σ →₀ ℕ) (r : R) (n : ℕ) (hn : degree d = n) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:118]:
```suggestion
theorem isHomogeneous_monomial {d : σ →₀ ℕ} (r : R) {n : ℕ} (hn : degree d = n) :
```

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 13]
```diff
@@ -167,11 +162,10 @@ namespace IsHomogeneous
 
 variable [CommSemiring R] [CommSemiring S] {φ ψ : MvPolynomial σ R} {m n : ℕ}
 
-theorem coeff_eq_zero (hφ : IsHomogeneous φ n) (d : σ →₀ ℕ) (hd : ∑ i in d.support, d i ≠ n) :
+theorem coeff_eq_zero (hφ : IsHomogeneous φ n) (d : σ →₀ ℕ) (hd : degree d ≠ n) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:165]:
```suggestion
theorem coeff_eq_zero (hφ : IsHomogeneous φ n) {d : σ →₀ ℕ} (hd : degree d ≠ n) :
```

File: Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean [hunk 14]
```diff
@@ -409,20 +418,45 @@ theorem sum_weightedHomogeneousComponent :
...
 #align mv_polynomial.sum_weighted_homogeneous_component MvPolynomial.sum_weightedHomogeneousComponent
 
+theorem finsum_weightedHomogeneousComponent :
+    (finsum fun m => weightedHomogeneousComponent w m φ) = φ := by
+  rw [sum_weightedHomogeneousComponent]
+
 variable {w}
 
+theorem IsWeightedHomogeneous.weightedHomogeneousComponent_same
+    [DecidableEq M] (m : M) (p : MvPolynomial σ R) (hp : IsWeightedHomogeneous w p m) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean:440]: Do you need `DecidableEq M` in the statement?

File: Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean [hunk 15]
```diff
@@ -409,20 +418,45 @@ theorem sum_weightedHomogeneousComponent :
...
+    weightedHomogeneousComponent w m p = p := by
+  ext x
+  rw [coeff_weightedHomogeneousComponent]
+  by_cases zero_coeff : coeff x p = 0
+  · split_ifs
+    rfl; rw [zero_coeff]
+  · rw [hp zero_coeff, if_pos]; rfl
+
+theorem IsWeightedHomogeneous.weightedHomogeneousComponent_ne
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean:449]: Same.

File: Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean [hunk 16]
```diff
@@ -458,14 +492,65 @@ theorem weightedHomogeneousComponent_zero [NoZeroSMulDivisors ℕ M] (hw : ∀ i
...
+  · exact hn
+  · exact absurd hx (hw x)
+
 end CanonicallyOrderedAddCommMonoid
 
+section CanonicallyLinearOrderedMonoid
+
+variable [CanonicallyLinearOrderedAddCommMonoid M] {w : σ → M} (φ : MvPolynomial σ R)
+
+theorem weightedDegree_eq_zero_iff (hw : NonTorsionWeight w) {m : σ →₀ ℕ} :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean:522]: Can you add a doc to this and the following results?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean (hunk 14 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean:439]: Good catch, I don't. Thanks!

File: Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean (hunk 16 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean:525]: Done!
